US07323472B2
4-(2-Chloro-phenyl)-6-(2-chloro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-(2-chloro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 2-chlorophenylboronic acid to give the title compound 4-(2-chloro-phenyl)-6-(2-chloro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 2.58 (s, 3H), 7.01-7.59 (m, 7H), 8.61 (d, 1H, J=4.7 Hz), 9.65 (s, 1H), 11.48 (br s, 1H). LC MS (m/e)=390 (MH+).

reactant | 4-chloro-6-(2-chloro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1)Cl)SC | C12H9Cl2N3OS
reactant | 2-chlorophenylboronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 4-(2-chloro-phenyl)-6-(2-chloro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=C(C=CC=C1)C1=NC(=NC(=C1C=O)NC1=C(C=CC=C1)Cl)SC | C18H13Cl2N3OS
